US04089976
Preparation of 1,2,3,4-Tetrahydro-4-methoxy-1-naphthylurea (cis and trans isomeric mixture).
A 2.0 g sample of 1,2,3,4-tetrahydro-4-hydroxy-1-naphthylurea (cis/trans) is stirred in 10 ml of dry dimethylformamide and one equivalent of sodium hydride in mineral oil added at 0° C under a nitrogen atmosphere. After the addition is completed, 1.2 equivalents of methyl iodide is added and the reaction mixture stirred overnight. The mixture is carefully poured on ice, neutralized with hydrochloric acid and the title compound collected by filtration. Evaporation of the filtrate to dryness and washing the residue with water affords additional title compound.

reactant | 1,2,3,4-tetrahydro-4-hydroxy-1-naphthylurea | OC1CCC(C2=CC=CC=C12)NC(=O)N | C11H14N2O2
reactant | sodium hydride | one equivalent | [H-].[Na+]
reactant | methyl iodide | 1.2 equivalents | CI | CH3I
reactant | hydrochloric acid | Cl | ClH
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 1,2,3,4-Tetrahydro-4-methoxy-1-naphthylurea | COC1CCC(C2=CC=CC=C12)NC(=O)N | C12H16N2O2
